US07893056B2
4,6-Dichloro-5-fluoro-2-methylpyrimidine (0.2 g, 1.111 mmol) was dissolved in THF (1 mL). To this solution was added triethylamine (0.17 mL, 1.22 mmol), followed by commercially available (2-pyridinylmethyl)amine (0.11 mL, 1.067 mmol), which was dissolved in THF (1 mL). The reaction was left to stir for 4 hours. The reaction mixture was diluted with water and extracted with ether. The organics were dried (MgSO4) and concentrated to provide 6-chloro-5-fluoro-2-methyl-N-(2-pyridinylmethyl)-4-pyrimidinamine as a yellow wax (0.2517 g, 90%). LCMS: (M+H)+=253.3.

reactant | 4,6-Dichloro-5-fluoro-2-methylpyrimidine | 1.111 mmol, 0.2 g | ClC1=NC(=NC(=C1F)Cl)C | C5H3Cl2FN2
reactant | triethylamine | 1.22 mmol, 0.17 mL | C(C)N(CC)CC | C6H15N
reactant | (2-pyridinylmethyl)amine | 1.067 mmol, 0.11 mL | N1=C(C=CC=C1)CN | C6H8N2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 6-chloro-5-fluoro-2-methyl-N-(2-pyridinylmethyl)-4-pyrimidinamine | ClC1=C(C(=NC(=N1)C)NCC1=NC=CC=C1)F | C11H10ClFN4
